US09056859B2
To a solution of (6-aminopyridin-2-yl)acetate (375 mg, 2.26 mmol) in glacial acetic acid (5 mL) was added triethyl orthoformate (1.13 mL, 6.77 mmol) and sodium azide (440 mg, 6.77 mmol). The reaction mixture was heated at 80° C. for 3 hours in a sealed vial and then cooled to ambient temperature. Once cooled, water (5 mL) and solid sodium bicarbonate were added until a pH range of 6-7 was achieved. The aqueous layer was extracted with ethyl acetate (3×20 mL). The combined organic layers were then dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified via MPLC (0-100% EtOAc/Hex gradient) to afford methyl [6-(1H-tetrazol-1-yl)pyridin-2-yl]acetate. 1H NMR (500 MHz, DMSO-d6): 10.1 (s, 1H), 8.2 (t, 1H), 8 (d, 1H), 7.6 (d, 1H), 4.0 (s, 3H), 3.6 (s, 2H). (M+H−28)+192.

reactant | (6-aminopyridin-2-yl)acetate | 2.26 mmol, 375 mg | NC1=CC=CC(=N1)CC(=O)[O-]
reactant | triethyl orthoformate | 6.77 mmol, 1.13 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium azide | 6.77 mmol, 440 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
product | methyl [6-(1H-tetrazol-1-yl)pyridin-2-yl]acetate | N1(N=NN=C1)C1=CC=CC(=N1)CC(=O)OC | C9H9N5O2
